US09227951B2
A solution of 2-formylthiazole-5-carboxylic acid (28.7 g, 0.18 mol) and 1,1-di-tert-butoxy-N,N-dimethylmethanamine (380 g, 1.8 mol) was heated to 40° C. to initiate the reaction, then cooled to rt immediately and stirred at rt for 3 h. The mixture was filtered and the filtrate was concentrated. The crude residue was purified by flash column chromatography (petroleum ether: EtOAc, 100:1) to give tert-butyl 2-formylthiazole-5-carboxylate (25 g, 64%). 1H NMR (CDCl3, 400 MHz) δ 9.92 (s, 1H), 8.46 (s, 1H), 1.53 (s, 9H).

reactant | 2-formylthiazole-5-carboxylic acid | 0.18 mol, 28.7 g | C(=O)C=1SC(=CN1)C(=O)O | C5H3NO3S
reactant | 1,1-di-tert-butoxy-N,N-dimethylmethanamine | 1.8 mol, 380 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
product | tert-butyl 2-formylthiazole-5-carboxylate | 25 g, 64% | C(=O)C=1SC(=CN1)C(=O)OC(C)(C)C | C9H11NO3S
